US05068300
4-Bromotolan-4'-carboxylic acid-tert.-butyl ester
2.8 g (Ph3P)2PdCl2 and 400 mg of CuI are added to a solution of 40.4 g of 4-ethinyl-benzoic acid tert.-butyl ester, 56.6 g of bromoiodobenzene and 1.34 g of Ph3P in 50 ml of diethylamine and 300 ml of absolute acetonitrile and the reaction mixture is stirred for 72 hours at 40° C., suction filtered and dried.

reactant | 4-ethinyl-benzoic acid tert.-butyl ester | 40.4 g | C(C)(C)(C)OC(C1=CC=C(C=C1)C#C)=O | C13H14O2
reactant | bromoiodobenzene | 56.6 g | BrC1=C(C=CC=C1)I | C6H4BrI
reactant | Ph3P | 1.34 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | diethylamine | 50 ml | C(C)NCC | C4H11N
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
catalyst | (Ph3P)2PdCl2 | 2.8 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 400 mg | [Cu]I
product | 4-Bromotolan-4'-carboxylic acid-tert.-butyl ester | C(C)(C)(C)OC(=O)C1=CC=C(C#CC2=CC=C(C=C2)Br)C=C1 | C19H17BrO2
